US08957064B2
Step 4: 2-[5-(Azetidine-3-yl)-1H-1,2,4-triazole-3-yl]-6-methylpyridine dihydrochloride
11.6 g (36.8 mmol) tert-Butyl 3-[3-(6-methylpyridine-2-yl)-1H-1,2,4-triazole-5-yl]azetidine-1-carboxylate are dissolved in 150 mL dioxane. 27.6 mL HCl in dioxane (4M) are added dropwise and the reaction mixture is stirred over night at room temperature. The reaction mixture is evaporated to dryness yielding 13.1 g (76.6%) of the desired salt which is 60% pure and is used without further purification.

reactant | tert-Butyl 3-[3-(6-methylpyridine-2-yl)-1H-1,2,4-triazole-5-yl]azetidine-1-carboxylate | 36.8 mmol, 11.6 g | CC1=CC=CC(=N1)C1=NNC(=N1)C1CN(C1)C(=O)OC(C)(C)C | C16H21N5O2
reactant | HCl | 27.6 mL | Cl | ClH
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 4M | O1CCOCC1 | C4H8O2
product | 2-[5-(Azetidine-3-yl)-1H-1,2,4-triazole-3-yl]-6-methylpyridine dihydrochloride | 13.1 g, 76.6% | Cl.Cl.N1CC(C1)C1=NC(=NN1)C1=NC(=CC=C1)C | InChI=1S/C11H13N5.2ClH/c1-7-3-2-4-9(13-7)11-14-10(15-16-11)8-5-12-6-8;;/h2-4,8,12H,5-6H2,1H3,(H,14,15,16);2*1H
